US04798620
N,N-dimethylformamide (3 drops) was added to a mixture consisting of 2-[4-carbamoylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.2 g), toluene (30 ml) and thionyl chloride (0.2 g), and then the mixture was refluxed under heating for 3 hours. After the solvent was concentrated, toluene (50 ml) was added and fully mixed therewith, and then toluene was distilled off. The resulting solid was recrystalled from ethanol to give the desired 2-[4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.15 g). mp. 225°-229° C.

reactant | 2-[4-carbamoylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.2 g | C(N)(=O)CN1C(COC2=C1C=C(C(=C2)F)N2C(C=1CCCCC1C2=O)=O)=O | C18H16FN3O5
reactant | thionyl chloride | 0.2 g | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.15 g | C(#N)CN1C(COC2=C1C=C(C(=C2)F)N2C(C=1CCCCC1C2=O)=O)=O | C18H14FN3O4
